US06121271
4-Bromo-2,6-diethylbenzenediazonium tetrafluoroborate
At 0° C., to a stirred solution of commercial 4-bromo-2,6-diethylaniline (10.0 g, 43.9 mmol) in absolute ethanol (219 mL) was added 48% aq. fluoboric acid (17.2 mL), followed by tert-butyl nitrite (5.7 mL, 48.0 mmol). After 0.5 h, the reaction was poured into ice cold ether (877 mL). The resulting precipitate was washed with cold ether and dried to give 9.39 g (66%) of the title compound. 1H NMR: consistent.

reactant | 4-bromo-2,6-diethylaniline | 43.9 mmol, 10.0 g | BrC1=CC(=C(N)C(=C1)CC)CC | C10H14BrN
reactant | fluoboric acid | 17.2 mL | [H+].[B-](F)(F)(F)F
reactant | tert-butyl nitrite | 48.0 mmol, 5.7 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | ethanol | 219 mL | C(C)O | C2H6O
product | 4-Bromo-2,6-diethylbenzenediazonium tetrafluoroborate | 9.39 g, 66% | F[B-](F)(F)F.BrC1=CC(=C(C(=C1)CC)[N+]#N)CC | InChI=1S/C10H12BrN2.BF4/c1-3-7-5-9(11)6-8(4-2)10(7)13-12;2-1(3,4)5/h5-6H,3-4H2,1-2H3;/q+1;-1
